US03952012
A solution of 30.8 g. p-toluoyl chloride and 26.6 g. (0.2 mole) of aluminum chloride in 250 ml. of 1,2-dichloroethane is added to a refluxing solution of 50.6 g. (0.2 mole) of ethyl 3-ethoxycarbonyl-1,4-dimethylpyrrole-2-acetate in 250 ml. of 1,2-dichloroethane over 30 min. The mixture is heated under reflux for 90 min. and poured into ice-diluted hydrochloric acid. The organic solution is separated, washed with brine, and dried over magnesium sulfate. The solvent is evaporated in vacuo and the residue is recrystallized from methanol to give ethyl 1,4-dimethyl-3-ethoxycarbonyl-5-(p-toluoyl)-pyrrole-2-acetate as a white solid, m.p. 108°-111°C.

reactant | p-toluoyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | aluminum chloride | 0.2 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethyl 3-ethoxycarbonyl-1,4-dimethylpyrrole-2-acetate | 0.2 mole | C(C)OC(=O)C1=C(N(C=C1C)C)CC(=O)OCC | C13H19NO4
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | ethyl 1,4-dimethyl-3-ethoxycarbonyl-5-(p-toluoyl)-pyrrole-2-acetate | CN1C(=C(C(=C1C(=O)C1=CC=C(C=C1)C)C)C(=O)OCC)CC(=O)OCC | C21H25NO5
